US07528262B2
2-Methoxymethyl-1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-1H-indole
{1-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]-1H-indol-2-yl}methanol (15 mg) was dissolved in a mixture of methanol, acetonitrile, and 1 N HCl. After standing at room temperature for 2 hours, the solution was purified by semi-prep LC-MS to give 1.1 mg of the desired product. LC-MS (C23H28N2O2 calc'd 364) m/z 365 (M+H); 1H NMR (300 MHz, CDCl3) δ 7.66-7.61 (m, 1H), 7.33 (d, J=9 Hz, 2H), 7.20-6.75 (m, 5H), 6.66 (s, 1H), 4.40 (s, 2H), 4.10 (t, J=6.3 Hz, 2H), 3.28 (s, 3H), 2.82-2.71 (m, 6H), 2.17-2.08 (m, 2H), 1.87 (m, 4H).

reactant | {1-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]-1H-indol-2-yl}methanol | 15 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)CO | C22H26N2O2
reactant | methanol | CO | CH4O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | HCl | 1 N | Cl | ClH
product | 2-Methoxymethyl-1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-1H-indole | 1.1 mg | COCC=1N(C2=CC=CC=C2C1)C1=CC=C(C=C1)OCCCN1CCCC1 | C23H28N2O2
